US08710245B2
(d) Synthesis of tert-butyl spiro[pyrrolidine-3,4′-thieno[3,2-c]chromene]-1-carboxylate
To a solution of tert-butyl 3-hydroxy-3-(2-(2-hydroxyphenyl)thiophen-3-yl)pyrrolidine-1-carboxylate (4.4 g, 12.1 mmol) in DCM (25 mL) at 0° C. was added BF3 (1.6 g, 24.2 mmol) dropwise. After stirring overnight, the reacton mixture was treated with water and extracted with EtOAc several times. The combined organic layer was washed with brine, and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (3.8 g, 92%).

reactant | tert-butyl 3-hydroxy-3-(2-(2-hydroxyphenyl)thiophen-3-yl)pyrrolidine-1-carboxylate | 12.1 mmol, 4.4 g | OC1(CN(CC1)C(=O)OC(C)(C)C)C1=C(SC=C1)C1=C(C=CC=C1)O | C19H23NO4S
reactant | BF3 | 24.2 mmol, 1.6 g | B(F)(F)F | BF3
reactant | water | O | H2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl spiro[pyrrolidine-3,4′-thieno[3,2-c]chromene]-1-carboxylate | 3.8 g, 92% | S1C=CC=2C3(OC=4C=CC=CC4C21)CN(CC3)C(=O)OC(C)(C)C | C19H21NO3S
